US04665202
A mixture of 26 g 4-chloro-3-formyl-flav-3-ene and 7.1 g sodium hydrosulfide hydrate in 400 ml ethanol is refluxed for 3 hours and allowed to stand overnight at room temperature. The reaction mixture is evaporated to dryness and the residue dissolved in methylene chloride. The precipitate is filtered and the organic solution is evaporated. The residue is recrystallized in a mixture of hexane and toluene. Pure 4-(2"H-3"-formyl-2"-phenyl-1"-benzopyran-4"-yl-thio)-3-formyl-flav-3-ene is obtained as yellow crystals; m.p. 193°-194° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 26 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | sodium hydrosulfide hydrate | 7.1 g | O.[SH-].[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-formyl-flav-3-ene | C(=O)C=1C(OC2=CC=CC=C2C1)C1=CC=CC=C1 | C16H12O2
